US05556861
1-Benzhydryl-3-methanesulphonyloxy-3-propylazetidine was prepared under the conditions described for 1-benzhydryl-3-methanesulphonyloxy-3-methylazetidine in Patent Application EP 406,112, but starting with 2.4 g of 1-benzhydryl-3-hydroxy-3-propylazetidine. 2.4 g of 1-Benzhydryl-3-methanesulphonyloxy-3-propylazetidine are obtained in the form of a colorless solid, melting point 70° C.

reactant | 1-benzhydryl-3-methanesulphonyloxy-3-methylazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C)OS(=O)(=O)C | C18H21NO3S
reactant | 1-benzhydryl-3-hydroxy-3-propylazetidine | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(CCC)O | C19H23NO
product | 1-Benzhydryl-3-methanesulphonyloxy-3-propylazetidine | 2.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(CCC)OS(=O)(=O)C | C20H25NO3S
